US08084611B2
(3) 5-Morpholin-4-yl-pyrimidin-2-ol hydrochloride
4N—HCl/dioxane (100 ml) was added to 4-(2-benzyloxy-pyrimidin-5-yl)-morpholine (8.4 g) and the resulting suspension was stirred at 50° C. for an hour. The reaction mixture was cooled to room temperature and the precipitated solid was collected by filtration, washed with hexane, dried to give the titled compound (7.49 g). MS (m/z): 182 [M+H]+.

reactant | 4-(2-benzyloxy-pyrimidin-5-yl)-morpholine | 8.4 g | C(C1=CC=CC=C1)OC1=NC=C(C=N1)N1CCOCC1 | C15H17N3O2
reactant | HCl dioxane | 100 ml | Cl.O1CCOCC1
product | 5-Morpholin-4-yl-pyrimidin-2-ol hydrochloride | 7.49 g | Cl.N1(CCOCC1)C=1C=NC(=NC1)O | InChI=1S/C8H11N3O2.ClH/c12-8-9-5-7(6-10-8)11-1-3-13-4-2-11;/h5-6H,1-4H2,(H,9,10,12);1H
